US03971819
3-Nitro-4-phenoxy-5-sulphamyl-benzoic acid (10 g) was dissolved in water (250 ml) by adjusting the pH to 8 by addition of 1N lithium hydroxide. Then acetic anhydride (12 g) was added dropwise, while stirring and keeping the pH constant at pH 9 by means of 1N lithium hydroxide, using an automatic titrator. After the acetic anhydride was consumed, the reaction mixture was acidified by addition of 4N hydrochloric acid. The precipitated 5-acetylsulphamyl-3-nitro-4-phenoxy-benzoic acid was isolated by filtration and recrystallized from aqueous ethanol. The compound was obtained with a melting point of 270°-271°C.

reactant | 3-Nitro-4-phenoxy-5-sulphamyl-benzoic acid | 10 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H10N2O7S
reactant | lithium hydroxide | 1N | [OH-].[Li+]
reactant | acetic anhydride | 12 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | water | 250 ml | O | H2O
product | 5-acetylsulphamyl-3-nitro-4-phenoxy-benzoic acid | C(C)(=O)NS(=O)(=O)C=1C(=C(C=C(C(=O)O)C1)[N+](=O)[O-])OC1=CC=CC=C1 | C15H12N2O8S
